US08431695B2
Preparation of 3-{4-amino-7-[1-(N,N-dimethylglycyl)piperidin-4-yl]pyrrolo[2,1-f][1,2,4]triazin-5-yl}-N-benzylbenzamide
In a manner similar to the procedure described for the preparation of Example 342 and using 3-(4-amino-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-5-yl)-N-benzylbenzamide and N,N-dimethylglycine as starting material, 10 mg (18%) of the desired product was isolated. 1H NMR (400 MHz, CO3OD) δ 7.98 (s, 1H), 7.85 (d, 1H), 7.82 (s, 1H), 7.62 (d, 1H), 7.55 (t, 1H), 7.36-7.28 (m, 4H), 7.25-7.20 (m, 1H), 6.57 (s, 1H), 4.62-4.57 (m, 3H), 4.18-4.14 (m, 1H), 3.51-3.42 (m, 1H), 3.31-3.16 (m, 5H), 2.82-2.78 (m, 1H), 2.29 (s, 6H), 2.19-2.11 (m, 2H), 1.78-1.59 (m, 2H); 512.3, LC-MS m/z [M+H]+ 512.3, RT 1.96 min.

reactant | 3-(4-amino-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-5-yl)-N-benzylbenzamide | NC1=NC=NN2C1=C(C=C2C2CCNCC2)C=2C=C(C(=O)NCC1=CC=CC=C1)C=CC2 | C25H26N6O
reactant | N,N-dimethylglycine | CN(CC(=O)O)C | C4H9NO2
product | 3-{4-amino-7-[1-(N,N-dimethylglycyl)piperidin-4-yl]pyrrolo[2,1-f][1,2,4]triazin-5-yl}-N-benzylbenzamide | 10 mg, 18% | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)C(CN(C)C)=O)C=2C=C(C(=O)NCC1=CC=CC=C1)C=CC2 | C29H33N7O2
